US20010044426A1
Nicotinoyl Azide
There are added to a suspension of 12.3 g of nicotinic acid in 100 ml of dimethylformamide 14.2 ml of triethylamine and then, after cooling to 0° C., 22 ml of diphenylphosphoryl azide in 50 ml of dimethylformamide. After stirring for 2 hours, the reaction mixture is poured onto ice. After extraction with ether, the organic phase is washed with a NaHCO3 solution, dried, and then concentrated to yield 9.68 g of the expected product.

reactant | nicotinic acid | 12.3 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 22 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Nicotinoyl Azide | 9.68 g | C(C1=CN=CC=C1)(=O)N=[N+]=[N-] | C6H4N4O
